US06340759B1
(139-2) 5-Bromo-2-(3-methoxypropyl)pyridine
5-Bromo-2-(3-methoxypropynyl)pyridine (5.652 g) was dissolved in ethanol (150 ml), followed by the addition of triethylamine (2.5 ml) and platinum oxide (230 mg), and the resulting mixture was stirred in hydrogen atmosphere at room temperature for 5 hr. After the platinum oxide was filtered off, the resulting mixture was evaporated and partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (3.991 g, yield; 68%).

reactant | 5-Bromo-2-(3-methoxypropynyl)pyridine | 5.652 g | BrC=1C=CC(=NC1)C#CCOC | C9H8BrNO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | platinum oxide | 230 mg | [Pt]=O
product | 5-Bromo-2-(3-methoxypropyl)pyridine | 3.991 g, yield; 68% | BrC=1C=CC(=NC1)CCCOC | C9H12BrNO
